* Z:\mnt\spice-netlists\LTM4602HV.asc
V1 IN 0 20
R1 N003 0 22.1k
R2 OUT N007 100K
Rload OUT 0 0.66
XU1 N001 N005 N002 0 N004 N006 N007 N003 0 0 OUT IN LTM4602
C1 OUT 0 100µ
C2 OUT 0 22µ
.tran 2.5m startup
* LTM4602HV - 6A Step-Down DC/DC µModule\nInput: 20V     Output: 3.3V @ 5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LTM4602.sub
.backanno
.end
