* Z:\mnt\spice-netlists\LTM4603HV.asc
C1 OUT N004 47p
R1 N004 0 30.1k
R2 N008 0 392K
C2 OUT 0 100µ
R3 OUT N001 100K
R4 IN N003 100K
C3 N010 0 .001µ
V1 IN 0 20
Rload OUT 0 0.3
XU1 IN 0 OUT 0 N006 N006 OUT 0 N001 N004 N007 0 0 N009 N008 N005 N003 N010 N002 N007 LTM4603
C4 OUT 0 10µ
C5 IN 0 10µ
C6 IN 0 150µ
.tran 750u startup
* LTM4603HV - 6A Step-Down DC/DC µModule\nInput: 20V     Output: 1.8V @ 6A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
.lib LTM4603.sub
.backanno
.end
