* Z:\mnt\spice-netlists\LTM4600HV_TA01A.asc
V1 IN 0 12
R1 N003 0 31.6K
R2 OUT N007 100K
C1 OUT N003 100p
C2 OUT 0 22µ
C3 OUT 0 100µ
XU1 N001 N005 N002 0 N004 N006 N007 N003 0 0 OUT IN LTM4600
C4 IN 0 10µ x2 Lser=0
C5 IN 0 150µ
Rload OUT 0 .25
.tran 3m startup
* LTM4600HV - 10A, 28VIN High Efficiency DC/DC µModule\nInput: 4.5V to 28V     Output: 2.5V @ 10A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LTM4600.sub
.backanno
.end
