* Z:\mnt\spice-netlists\LTM4636_DC2230A-A.asc
XU1 IN N004 0 N008 N007 N001 N001 N004 N006 0 OUT N005 N005 N009 N003 IN NC_01 NC_02 OUT NC_03 0 0 N002 NC_04 LTM4636
V1 IN 0 12
C1 N007 0 100p
C2 OUT 0 470µ x3
C3 OUT 0 100µ x8
R3 OUT 0 25m
R4 N003 N006 15K
C4 N006 0 .1µ
R2 N008 0 7.5K
R1 N002 0 34.8K
C5 0 N004 100p
C6 IN 0 150µ
C8 IN 0 22µ x6
R5 N009 N001 10k
C7 N003 0 22µ
.tran 3m startup
* LTM4636 - 40A DC/DC ?Module Regulator\nHigh Current Step-Down ?Module Regulator\nInput: 4.7V to 15V     Outputs: 1.0V @ 40A, Fsw = 350kHz
* Notes:\n  A smaller TRACK/SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTM4636.sub
.backanno
.end
